US05939422
(i) 8-Cyclopropyl-3-ethyl-6-ethylamino-3,7-dihydro-2H-purine-2-thione
8-cyclopropyl-3-ethyl-2,6-dithioxanthine (20.19 g) prepared according to the method of example 2(i), and 70% ethylamine in water (320 ml 4.0M) were placed in a 450 ml pressure reactor and heated to 150° C. for 6 hours. The reaction solution was cooled to room temperature, treated with 2 portions of charcoal (0.2 g) filtered, and evaporated to dryness. The residue was triturated in methanol (300 ml), concentrated to about 200 ml, and the solid collected (16.48 g), mp 265° with decomposition.

reactant | 8-cyclopropyl-3-ethyl-2,6-dithioxanthine | 20.19 g | C1(CC1)C1=NC=2N(C(NC(C2N1)=S)=S)CC | C10H12N4S2
reactant | ethylamine | C(C)N | C2H7N
reactant | charcoal | 0.2 g | C | CH4
solvent | water | 4.0M, 320 ml | O | H2O
product | 8-Cyclopropyl-3-ethyl-6-ethylamino-3,7-dihydro-2H-purine-2-thione | C1(CC1)C1=NC=2N(C(N=C(C2N1)NCC)=S)CC | C12H17N5S
